US08378095B2
2-(2,6-difluorophenyl)-5-(4-(piperidin-4-ylmethoxy)phenyl)oxazole-4-carboxamide
The title compound was prepared by alkylation of 2-(2,6-difluorophenyl)-5-(4-hydroxyphenyl)oxazole-4-carboxamide with benzyl 4-(bromomethyl)piperidine-1-carboxylate according to the procedure described in example S-1, step b, followed by subsequent deprotection using the H-cube hydrogenation system (full H2 mode, 10% Pd\C catalyst, 1 ml/min, 20° C., 0.05M in MeOH). 1H NMR (DMSO) δ 1.30-1.50 (2H, m), 1.85 (2H, d), 1.90-2.10 (1H, m), 2.71-2.81 (2H, m), 3.21 (2H, d), 3.92 (2H, d), 7.05-7.15 (2H, m), 7.35-7.45 (2H, m), 7.60-7.80 (3H, m), 8.21-8.30 (2H, m). LCMS (2) 3.13 min; m/z (ES+) 414.

reactant | 2-(2,6-difluorophenyl)-5-(4-hydroxyphenyl)oxazole-4-carboxamide | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)O | C16H10F2N2O3
reactant | benzyl 4-(bromomethyl)piperidine-1-carboxylate | BrCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H18BrNO2
solvent | MeOH | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | 2-(2,6-difluorophenyl)-5-(4-(piperidin-4-ylmethoxy)phenyl)oxazole-4-carboxamide | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)N)C1=CC=C(C=C1)OCC1CCNCC1 | C22H21F2N3O3
